US04088695
Hexamethyldisilazane (7.5 ml.) and trimethylchlorosilane (1.5 ml.) were added to a stirred solution of 6-(7-hydroxyheptyl)-7-(3-oxooct-1-enyl)-1,4-dioxaspiro[4,4]nonane (2.0 g.) in dry tetrahydrofuran (100 ml.) and the mixture was stirred at room temperature for 24 hours. The mixture was then filtered and the solvent was removed from the filtrate in vacuo. Xylene (20 ml.) was added to the residue and the solvent was again removed in vacuo. This process of adding xylene and then removing solvent in vacuo was repeated twice more, and the petroleum ether (b.p. 60°-80° C.) was added to the residue. The mixture was filtered, and the filtrate concentrated in vacuo to give 6-(7-trimethylsilyloxyheptyl)-7-(3-oxooct-1-enyl)-1,4-dioxaspiro[4,4]nonane (2.1 g.), νmax 845 cm-1, 1250 cm-1.

reactant | Hexamethyldisilazane | 7.5 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | trimethylchlorosilane | 1.5 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | 6-(7-hydroxyheptyl)-7-(3-oxooct-1-enyl)-1,4-dioxaspiro[4,4]nonane | 2.0 g | OCCCCCCCC1C2(OCCO2)CCC1C=CC(CCCCC)=O | C22H38O4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6-(7-trimethylsilyloxyheptyl)-7-(3-oxooct-1-enyl)-1,4-dioxaspiro[4,4]nonane | 2.1 g | C[Si](OCCCCCCCC1C2(OCCO2)CCC1C=CC(CCCCC)=O)(C)C | C25H46O4Si
